US05053416
1-methyl-3-(4-methylthiazol-2-yl)-pyridinium iodide.
8.3 g of [3-(4-methylthiazol-2-yl)-pyridine] and 4.5 cm3 of iodomethane in 30 cm3 of ethanol are left in darkness for 10 days. After filtering, 14.6 g of product is obtained which is recrystallized from ethanol. M.p.=184°-186° C.

reactant | 3-(4-methylthiazol-2-yl)-pyridine | CC=1N=C(SC1)C=1C=NC=CC1 | C9H8N2S
reactant | iodomethane | 4.5 cm3 | IC | CH3I
solvent | ethanol | 30 cm3 | C(C)O | C2H6O
product | 1-methyl-3-(4-methylthiazol-2-yl)-pyridinium iodide | 14.6 g | [I-].C[N+]1=CC(=CC=C1)C=1SC=C(N1)C | InChI=1S/C10H11N2S.HI/c1-8-7-13-10(11-8)9-4-3-5-12(2)6-9;/h3-7H,1-2H3;1H/q+1;/p-1
